US08022206B2
(S)-1-[6-(1-Methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl]ethanol
A mixture of (S)-1-(6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol (30.0 mg, 0.151 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (62.8 mg, 0.302 mmol), Pd(PPh3)4 (20 mg, 0.02 mmol), potassium carbonate (62.6 mg, 0.453 mmol) and 4:1 dioxane:water (5 mL) was heated to 85° C. for 1 h. The organic solvent was removed in vacuo, and the material was transferred to a separatory funnel and extracted with DCM. The organic layer was dry-loaded onto silica gel, and the material was purified via column chromatography, eluting with 10% MeOH/DCM. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. MS (ES+): m/z 245.08 (100) [MH+]. HPLC: tR=2.00 min (ZQ3, polar—5 min).

reactant | (S)-1-(6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol | 0.151 mmol, 30.0 mg | ClC=1C=CC=2N(N1)C(=NN2)[C@H](C)O | C7H7ClN4O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.302 mmol, 62.8 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium carbonate | 0.453 mmol, 62.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.02 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 5 mL | O | H2O
product | (S)-1-[6-(1-Methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl]ethanol | CN1N=CC(=C1)C=1C=CC=2N(N1)C(=NN2)[C@H](C)O | C11H12N6O
